US04035395
Following the procedure described in Example 1, 13.5 g (0.05 mol) of Cat. 1, 43.1 g (0.5 mol) of n-valeraldehyde, 35.1 g (0.5 mol) of methyl vinyl ketone, 500 ml of ethanol and 20.2 g (0.2 mol) of triethylamine are heated for 12 hours under nitrogen at the reflux temperature. For working up, the solvent is distilled, the cooled residue is taken up in chloroform, the chloroform phase is washed with dilute sulphuric acid and subsequently with water, the chloroform is removed and the liquid residue is distilled in a waterpump vacuum. Nonane-2,5-dione is obtained.

reactant | n-valeraldehyde | 0.5 mol, 43.1 g | CCCCC=O | C5H10O
reactant | methyl vinyl ketone | 0.5 mol, 35.1 g | C(=C)C(=O)C | C4H6O
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | Nonane-2,5-dione | CC(CCC(CCCC)=O)=O | C9H16O2
